US04764519
(f) 2-[3-(5-Bromo-3-methylpyrid-2-yl)-propylamino]-3-amino-5-(pyrid-3-ylmethyl)pyridine
Hydrazine hydrate (5.3 ml in 25 ml methanol) was added dropwise over 25 minutes to a stirred and cooled suspension under nitrogen of 2-[3-(5-bromo-3-methylpyrid-2-yl)propylamino]-3-nitro-5-(pyrid-3-ylmethyl)pyridine (5.07 g) and Raney nickel (10 g) in methanol (600 ml) and ethanol (100 ml) keeping the temperature at 5°-10° C. Reaction was allowed to stir at 5° C. for a further 45 minutes. Raney nickel was filtered off and the filtrate was concentrated to dryness to give an oil which was re-evaporated with n-propanol giving the title compound, theoretical yield, crude product used directly in next reaction.

reactant | Hydrazine hydrate | 5.3 ml | O.NN
reactant | 2-[3-(5-bromo-3-methylpyrid-2-yl)propylamino]-3-nitro-5-(pyrid-3-ylmethyl)pyridine | 5.07 g | BrC=1C=C(C(=NC1)CCCNC1=NC=C(C=C1[N+](=O)[O-])CC=1C=NC=CC1)C | C20H20BrN5O2
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | methanol | 600 ml | CO | CH4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[3-(5-Bromo-3-methylpyrid-2-yl)-propylamino]-3-amino-5-(pyrid-3-ylmethyl)pyridine | BrC=1C=C(C(=NC1)CCCNC1=NC=C(C=C1N)CC=1C=NC=CC1)C | C20H22BrN5
